US05994368
A mixture of 8-benzyloxy-2-methyl-4-vinylquinoline (200 mg) and palladium(II) hydroxide (40 mg) in a mixture of ethanol (1.5 ml) and dioxane (1.5 ml) was stirred for 9 hours at ambient temperature under hydrogen atmosphere. The reaction mixture was filtered, and the filtrate was concentrated. The residue was purified by flash chromatography (Ethyl acetate:n-hexane=1:2, V/V) to give 4-ethyl-8-hydroxy-2-methylquinoline (66 mg) as brown oil.

reactant | 8-benzyloxy-2-methyl-4-vinylquinoline | 200 mg | C(C1=CC=CC=C1)OC=1C=CC=C2C(=CC(=NC12)C)C=C | C19H17NO
solvent | ethanol | 1.5 ml | C(C)O | C2H6O
solvent | dioxane | 1.5 ml | O1CCOCC1 | C4H8O2
catalyst | palladium(II) hydroxide | 40 mg | [OH-].[Pd+2].[OH-]
product | 4-ethyl-8-hydroxy-2-methylquinoline | 66 mg | C(C)C1=CC(=NC2=C(C=CC=C12)O)C | C12H13NO
